** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/resistance_bench/resistence_bench.sch
.subckt resistence_bench VDD MEM Vx
*.PININFO VDD:B Vx:B MEM:B
RFB Vx net3 rhigh w=0.5e-6 l=4e-6 m=1 b=1
RFB4 VDD VDD rhigh w=0.5e-6 l=4e-6 m=8 b=0
RFB1 net3 net2 rhigh w=0.5e-6 l=4e-6 m=1 b=1
RFB2 net2 net1 rhigh w=0.5e-6 l=4e-6 m=1 b=1
RFB3 net1 MEM rhigh w=0.5e-6 l=4e-6 m=1 b=1
.ends
